US06998403B2
Step B: 3H-Benzo[e]indole
At ambient temperature and under 4 bars of hydrogen, hydrogenate 33 g of (2-nitro-1-naphthyl)acetonitrile (0.155 mol) dissolved in 630 ml of ethanol containing 10% water and 6.3 ml of pure acetic acid, using 19 g of 10% palladium-on-carbon. After absorption has ceased, filter off the catalyst, concentrate the solvent in vacuo and then take up the residue in 250 ml of dichloromethane; wash the organic phase with 100 ml of 0.1N potassium hydroxide solution and then dry the organic phase over magnesium sulphate, filter and concentrate.

reactant | hydrogen | [H][H] | H2
reactant | (2-nitro-1-naphthyl)acetonitrile | 0.155 mol, 33 g | [N+](=O)([O-])C1=C(C2=CC=CC=C2C=C1)CC#N | C12H8N2O2
solvent | ethanol | 630 ml | C(C)O | C2H6O
solvent | acetic acid | 6.3 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-carbon | 19 g | [Pd] | Pd
product | 3H-Benzo[e]indole | C1=CNC=2C=CC3=C(C12)C=CC=C3 | C12H9N
